US05932642
A mixture consisting of 66.1 g (0.20 mol) of 2,4-bis(1-methyl-1-phenylethyl)phenol and 9.8 g (0.10 mol) of cyclohexanone is melted together and is then saturated, with stirring, with hydrochloric acid gas at 40-45° C. After 19 hours, another 9.8 g (0.10 mol) of cyclohexanone are added. The reaction mixture is saturated again with hydrochloric acid gas and is then stirred for 21 hours. The reaction mixture is diluted with petroleum ether and washed with water. The organic phase is dried over magnesium sulfate and concentrated on a rotary evaporator. The residue is chromatographed over silica gel using the solvent system hexane/ethyl acetate=39:1, giving 1.3 g (2%) of 2-cyclohexen-1-yl-4,6-bis(1-methyl-1-phenylethyl)phenol as a thick yellowish oil (compound (110), Table 1).

reactant | 2,4-bis(1-methyl-1-phenylethyl)phenol | 0.20 mol, 66.1 g | CC(C)(C1=CC=CC=C1)C1=C(C=CC(=C1)C(C)(C)C1=CC=CC=C1)O | C24H26O
reactant | cyclohexanone | 0.10 mol, 9.8 g | C1(CCCCC1)=O | C6H10O
reactant | hydrochloric acid | Cl | ClH
reactant | cyclohexanone | 0.10 mol, 9.8 g | C1(CCCCC1)=O | C6H10O
product | 2-cyclohexen-1-yl-4,6-bis(1-methyl-1-phenylethyl)phenol | 1.3 g, 2% | C1(=CCCCC1)C1=C(C(=CC(=C1)C(C)(C1=CC=CC=C1)C)C(C)(C)C1=CC=CC=C1)O | C30H34O
